US07566724B2
Acetic acid (0.856 ml) was added to a solution of p-anisidine (1.23 g) and 2-chloropyrimidine (1.72 g) in dioxane (20 ml), and the resulting mixture was stirred overnight while heating the mixture to reflux. After cooling the reaction solution to room temperature, 1 N aqueous sodium hydroxide solution was added thereto and the resulting mixture was extracted 3 times with chloroform, followed by drying the organic layers over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was reprecipitated from chloroform/hexane mixed solvent to obtain N-(4-methoxyphenyl)pyrimidin-2-amine (1.39 g). (2) Under an argon atmosphere, p-toluenesulfonyl chloride (3.82 g) was added to a solution of tetrahydro-2H-pyran-4-ol (2.00 g) in pyridine (50 ml) at 0° C., and the resulting mixture was stirred at room temperature overnight. After adding 1 N hydrochloric acid thereto, the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were washed 3 times with water and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=1/6) to obtain tetrahydro-2H-pyran-4-yl-4-methylbenzenesulfonate (2.92 g). (3) Under an argon atmosphere, N-4-(methoxyphenyl)pyrimidin-2-amine (402 mg) was added to a suspension of sodium hydride (120 mg) in anhydrous DMF (15 ml), and the resulting mixture was stirred at room temperature for 30 minutes. A solution of tetrahydro-2H-pyran-4-yl-4-methylbenzenesulfonate (2.92 g) in anhydrous DMF (10 ml) was added to the reaction solution, and the resulting mixture was stirred at 50° C. for 24 hours. Sodium hydride (120 mg) was further added to the reaction solution, and the resulting mixture was stirred at 50° C. for 24 hours. The solution was cooled to room temperature, and saturated brine was added thereto, followed by extracting the resulting mixture 3 times with ethyl acetate. Organic layers were washed 3 times with water and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=1/3) to obtain N-(tetrahydro-2H-pyran-4-yl)-N-(4-methoxyphenyl)pyrimidin-2-amine (342 mg). (4) A mixture of N-(tetrahydro-2H-pyran-4-yl)-N-(4-methoxyphenyl)pyrimidin-2-amine (342 mg) and pyridine hydrochloride (2.00 g) was heated to 170° C. and stirred for 1 hour. Pyridine hydrochloride (1.00 g) was further added to the reaction solution, and the resulting mixture was stirred at 170° C. for 1 hour. The reaction solution was allowed to cool to room temperature and saturated brine was added thereto, followed by extracting the resulting mixture 3 times with ethyl acetate. Organic layers were washed 3 times with water and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. To a suspension of the obtained residue and potassium carbonate (498 mg) in THF (15 ml), N-phenylbis(trifluoromethanesulfonimide) (514 mg) was added, and the resulting mixture was stirred at room temperature for 5 hours. Saturated brine was added to the reaction solution, and the resulting mixture was extracted 3 times with ethyl acetate, followed by drying the organic layers over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: ethyl acetate/hexane=1/5) to obtain trifluoromethanesulfonic acid 4-[pyrimidin-2-yl-(tetrahydropyran-4-yl)amino]phenyl ester (228 mg). NMR (H1, CDCl3): δ 1.52-1.61 (2H, m), 1.83-1.87 (2H, m), 3.57 (2H, dt, J=12.0, 1.6 Hz), 4.00 (2H, dd, J=11.6, 4.8 Hz), 4.97-5.03 (1H, m), 6.59 (1H, t, J=4.8 Hz), 7.19-7.23 (2H, m), 7.34-7.37 (2H, m), 8.29 (2H, d, J=4.8 Hz)

reactant | p-toluenesulfonyl chloride | 3.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tetrahydro-2H-pyran-4-ol | 2.00 g | O1CCC(CC1)O | C5H10O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | tetrahydro-2H-pyran-4-yl-4-methylbenzenesulfonate | 2.92 g | O1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
